US05275924
N-(2-Carboxyethyl)-N-methylaniline
Acrylic acid (36.03 g; 0.5 mol) was added to N-methylaniline (53.58 g; 0.5 mol) and an exothermic reaction took place after which reaction was virtually complete. The mixture was stood overnight at room temperature and then diluted with water and made alkaline by the addition of sodium carbonate. The mixture was washed with dichloromethane and then the aqueous layer was cautiously acidified to pH 4.5 by the addition of concentrated hydrochloric acid SG 1.18. The resulting mixture was extracted into dichloromethane and washed with water The organic extract was dried (MgSO4) and the solvent removed by evaporation under reduced pressure to give a pale brown oil (57.32 g; 64%).

reactant | Acrylic acid | 0.5 mol, 36.03 g | C(C=C)(=O)O | C3H4O2
reactant | N-methylaniline | 0.5 mol, 53.58 g | CNC1=CC=CC=C1 | C7H9N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | N-(2-Carboxyethyl)-N-methylaniline | C(=O)(O)CCN(C1=CC=CC=C1)C | C10H13NO2
